US05780470
1-(Indan-1-yl)piperazine
Piperazine (17.2 g, 0.2 mol), indan-1-one (2.6 g, 20 mmol), titanium(IV) isopropoxide (13.3 ml, 40 mmol) and sodium borohydride (3.6 g, 95 mmol) were reacted by Method A to give the product (1.5 g, 37.1%). The crude product was used without purification.

reactant | Piperazine | 0.2 mol, 17.2 g | N1CCNCC1 | C4H10N2
reactant | indan-1-one | 20 mmol, 2.6 g | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | sodium borohydride | 95 mmol, 3.6 g | [BH4-].[Na+]
catalyst | titanium(IV) isopropoxide | 40 mmol, 13.3 ml | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | 1-(Indan-1-yl)piperazine | 1.5 g, 37.1% | C1(CCC2=CC=CC=C12)N1CCNCC1 | C13H18N2
